US06369091B1
2-(4-Nitrophenyl)-4,5-dimethyl benzimidazole was prepared by mixing 1,2-diamino-3,4-dimethylbenzene (1.36 g, 9.8 mmole with 4-nitrobenzoic acid (1.67 g, 9.8 mmole) and dissolved in POCl3 (10 ml) and heated to reflux for 2.5 hours. The reaction mixture was cooled and cautiously poured onto ice. The resulting solid was filtered, washed with NaHCO3 and used without further purification.

reactant | 1,2-diamino-3,4-dimethylbenzene | NC1=C(C(=C(C=C1)C)C)N | C8H12N2
reactant | 4-nitrobenzoic acid | 9.8 mmole, 1.67 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Nitrophenyl)-4,5-dimethyl benzimidazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2C)C | C15H13N3O2
